US07273690B2
To a mixture of 36 g of 2,6-xylenol and 60 g of diphenyl sulfoxide was added 300 mL of a solution consisting of diphosphorous pentoxide/methanesulfonic acid=1/10. The resultant reaction mixture was reacted at 40° C. for 4 hours and then poured on ice. This aqueous solution was washed with ethyl acetate. To the aqueous phase was added a solution prepared by dissolving 200 g of potassium iodide in water. The particles precipitated were taken out by filtration and washed with acetone. As a result, 3,5-dimethyl-4-hydroxyphenyldiphenylsulfonium iodide was obtained in an amount of 80 g. To 7.1 g of the 3,5-dimethyl-4-hydroxyphenyldiphenylsulfonium iodide obtained were added 300 mL of chloroform and 2.0 g of triethylamine. To this solution was dropwise added 10 g of nonafluorobutanesulfonic anhydride over 30 minutes with cooling with ice. After the resultant reaction mixture was reacted at room temperature for 1 hour, water was added thereto. The organic phase was washed with 5% aqueous NaOH solution and subsequently with water and then concentrated to obtain a crude reaction product, which was recrystallized from ethyl acetate/dilsopropyl ether. As a result, acid generator (Bb-1) was obtained in an amount of 10.0 g.

reactant | 2,6-xylenol | 36 g | C=1(C(=CC=CC1C)C)O | C8H10O
reactant | diphenyl sulfoxide | 60 g | C1(=CC=CC=C1)S(=O)C1=CC=CC=C1 | C12H10OS
reactant | diphosphorous pentoxide methanesulfonic acid | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3.CS(=O)(=O)O
reactant | potassium iodide | 200 g | [I-].[K+]
solvent | water | O | H2O
product | 3,5-dimethyl-4-hydroxyphenyldiphenylsulfonium iodide | [I-].CC=1C=C(C=C(C1O)C)[S+](C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C20H18OS.HI/c1-15-13-19(14-16(2)20(15)21)22(17-9-5-3-6-10-17)18-11-7-4-8-12-18;/h3-14H,1-2H3;1H
